US08871788B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid (3-methoxy-phenyl)-amide
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline (100 mg, 0.35 mmol, 1 eq) was dissolved in 3.5 mL of toluene and NaOt-Bu (50 mg, 0.51 mmol, 1.45 eq) was added followed by 3-methoxy phenylisocyanate (50 μL, 0.39 mmol, 1.1 eq). The reaction mixture was stirred at 35° C. for 12 h, where five grams of Celite was added, the mixture was concentrated under vacuum and purified by column chromatography on silica gel (5% MeOH in CH2Cl2; 40 g column; 35 mL/min). This gave 20 mg (13%) of the title compound as an orange semi-solid.

reactant | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | 0.35 mmol, 100 mg, 1 eq | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | NaOt-Bu | 0.51 mmol, 50 mg, 1.45 eq | CC(C)(C)[O-].[Na+]
reactant | 3-methoxy phenylisocyanate | 0.39 mmol, 50 μL, 1.1 eq | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid (3-methoxy-phenyl)-amide | COC=1C=C(C=CC1)NC(=O)N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C26H34N4O2
